US07985769B2
3-[(4-Chloro-2,5-dimethyl-benzenesulfonyl)-(3-iodo-benzyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (25 mg, 0.038 mmol) was taken in a mixture of THF:MeOH:H2O (3:2:1, 3 mL) and then added 1N aqueous solution of LiOH.H2O (0.24 mL, 0.228 mmol). The reaction mixture was stirred at room temperature for 12 h. Solvents were removed and the residue was partitioned between water and ethyl acetate. The aqueous layer was acidified using 10% KHSO4 solution. The organic layer was separated, dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography using dichloromethane and methanol (9:1) to obtain 3-[(4-Chloro-2,5-dimethyl-benzene-sulfonyl)-(3-iodo-benzyl)-amino]-5-phenyl-thiophene-2-carboxylic acid (22 mg, 88%) as a white solid. 1H NMR (CDCl3, 400 MHz): 7.69 (m, 3H), 7.57 (m, 3H), 7.42 (m, 3H), 7.33 (d, 1H), 7.16 (s, 1H), 6.04 (dd, 1H), 4.90 (bs, 2H), 2.36 (s, 6H).

reactant | 3-[(4-Chloro-2,5-dimethyl-benzenesulfonyl)-(3-iodo-benzyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.038 mmol, 25 mg | COC(=O)C=1SC(=CC1N(CC1=CC(=CC=C1)I)S(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C)C1=CC=CC=C1 | C27H23ClINO4S2
reactant | LiOH.H2O | 0.228 mmol, 0.24 mL | O[Li].O
solvent | THF MeOH H2O | 3 mL | C1CCOC1.CO.O
product | 3-[(4-Chloro-2,5-dimethyl-benzene-sulfonyl)-(3-iodo-benzyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 22 mg, 88% | ClC1=CC(=C(C=C1C)S(=O)(=O)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)CC1=CC(=CC=C1)I)C | C26H21ClINO4S2
